US07772238B2
Ethyl 6-(1-azidoethyl)-1-benzothiophene-2-carboxylate.
To a solution of ethyl 6-(1-hydroxyethyl)-1-benzothiophene-2-carboxylate (2.0 g, 8.06 mmol) in toluene (30 mL) was added diphenylphosphorylazide (2.64 g, 9.58 mmol), then DBU (1.31 mL, 8.79 mmol) dropwise. After 24 h, added more azide (0.5 mL) and DBU (0.3 mL) to the thick solution. After an additional 24 h, the reaction mixture was concentrated and purified via column chromatography yielding the desired product (1.77 g, 80.4% over two steps). 1H NMR (CDCl3, 600 MHz) δ 8.03 (d, J=0.9 Hz, 1H), 7.87 (d, J=8.2 Hz, 1H), 7.81 (m, 1H), 7.36 (dd, J=8.2, 0.9 Hz, 1H), 4.75 (q, J=6.8 Hz, 1H), 4.40 (q, J=7.3 Hz, 2H), 1.58 (d, J=6.8 Hz, 3H), 1.41 (t, J=7.3 Hz, 3H). MS: cal'd 276 (MH+), exp 276 (MH+).

reactant | ethyl 6-(1-hydroxyethyl)-1-benzothiophene-2-carboxylate | 8.06 mmol, 2.0 g | OC(C)C1=CC2=C(C=C(S2)C(=O)OCC)C=C1 | C13H14O3S
reactant | diphenylphosphorylazide | 9.58 mmol, 2.64 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 8.79 mmol, 1.31 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | azide | 0.5 mL | [N-]=[N+]=[N-]
reactant | DBU | 0.3 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 6-(1-azidoethyl)-1-benzothiophene-2-carboxylate | 1.77 g, 80.4% | N(=[N+]=[N-])C(C)C1=CC2=C(C=C(S2)C(=O)OCC)C=C1 | C13H13N3O2S
